US07968720B2
(rac.)-(1R*,5S*)-7-{4-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-6-carboxylic acid [2-chloro-5-(2-methoxy-ethyl)-benzyl]-cyclopropyl-amide
This compound was synthesized from (rac.)-(1R*,5S*)-7-{4-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6,9-tricarboxylic acid 3,9-di-tert-butyl ester (WO 2005/040165) and [2-chloro-5-(2-methoxy-ethyl)-benzyl]-cyclopropyl-amine as for compound L1, and then Example 1. MS (ESI, Q+) m/z 686.0.

reactant | (rac.)-(1R*,5S*)-7-{4-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6,9-tricarboxylic acid 3,9-di-tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC(=C([C@@H](C1)N2C(=O)OC(C)(C)C)C(=O)O)C2=CC=C(C=C2)OCCOC2=C(C=C(C=C2Cl)C)Cl | C33H40Cl2N2O8
reactant | [2-chloro-5-(2-methoxy-ethyl)-benzyl]-cyclopropyl-amine | ClC1=C(CNC2CC2)C=C(C=C1)CCOC | C13H18ClNO
product | (rac.)-(1R*,5S*)-7-{4-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-phenyl}-3,9-diaza-bicyclo[3.3.1]non-6-ene-6-carboxylic acid [2-chloro-5-(2-methoxy-ethyl)-benzyl]-cyclopropyl-amide | ClC1=C(CN(C(=O)C=2[C@H]3CNC[C@@H](CC2C2=CC=C(C=C2)OCCOC2=C(C=C(C=C2Cl)C)Cl)N3)C3CC3)C=C(C=C1)CCOC | C36H40Cl3N3O4
